US05281593
i) Methyl 3-(1,3-dioxolan-2-yl)benzoate
A stirred solution of methyl 3-formylbenzoate (10.0 g., 61 mmol), ethylene glycol (5.0 ml, 91 mmol) and p-toluene sulphonic acid (10 mb) in toluene (100 ml) was refluxed under a Dean and Stark water trap for 4 hours. The cooled solution was washed with sodium bicarbonate solution, dried and evaporated to a pale oil.

reactant | methyl 3-formylbenzoate | 61 mmol, 10.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | ethylene glycol | 91 mmol, 5.0 ml | C(CO)O | C2H6O2
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(1,3-dioxolan-2-yl)benzoate | O1C(OCC1)C=1C=C(C(=O)OC)C=CC1 | C11H12O4
